US08865726B2
(3aS,7aR)-3-(3-(3-fluoro-4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,4-triazol-5-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)hexahydrobenzo[d]oxazol-2(3H)-one (17 mg, 52%) was prepared by the procedure described in Example 1, Step 8, using (3aS,7aR)-3-(3-bromopyrazolo[1,5-a]pyrimidin-5-yl)hexahydrobenzo[d]oxazol-2(3H)-one and 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,4-triazole.

reactant | (3aS,7aR)-3-(3-bromopyrazolo[1,5-a]pyrimidin-5-yl)hexahydrobenzo[d]oxazol-2(3H)-one | BrC=1C=NN2C1N=C(C=C2)N2C(O[C@H]1[C@@H]2CCCC1)=O | C13H13BrN4O2
reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,4-triazole | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C1=NC=NN1COCC[Si](C)(C)C | C20H31BFN3O3Si
product | (3aS,7aR)-3-(3-(3-fluoro-4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,4-triazol-5-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)hexahydrobenzo[d]oxazol-2(3H)-one | 17 mg, 52% | FC=1C=C(C=CC1C1=NC=NN1COCC[Si](C)(C)C)C=1C=NN2C1N=C(C=C2)N2C(O[C@H]1[C@@H]2CCCC1)=O | C27H32FN7O3Si
